US08207168B2
5-(4-Hydroxy-phenyl)-6-methyl-2-pyridin-2-yl-2H-pyridazin-3-one was prepared from 5-(4-Methoxy-phenyl)-6-methyl-2-pyridin-2-yl-2H-pyridazin-3-one and BBr3 in CH2Cl2 using the procedure described in Example 91 Step 3; Mp 252-4° C.; MS m/z 280 (M+H).

reactant | 5-(4-Methoxy-phenyl)-6-methyl-2-pyridin-2-yl-2H-pyridazin-3-one | COC1=CC=C(C=C1)C1=CC(N(N=C1C)C1=NC=CC=C1)=O | C17H15N3O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 5-(4-Hydroxy-phenyl)-6-methyl-2-pyridin-2-yl-2H-pyridazin-3-one | OC1=CC=C(C=C1)C1=CC(N(N=C1C)C1=NC=CC=C1)=O | C16H13N3O2
